US09255110B2
To a solution of N-(3-hydroxy-4-nitro-phenyl)-acetamide (2 g, 10.15 mmol) in anhydrous N,N-dimethylormamide (5 mL) was added potassium carbonate (2.6 g, 18.88 mmol) followed by methyl iodide (0.71 mL, 11.16 mmol) and the reaction mixture was stirred at room temperature for 1 hour. A second aliquot of methyl iodide (0.15 mL) was then added and the resulting mixture was stirred for 1 hour. Ethyl acetate (100 mL) and brine (100 mL) were added, the organic layer was separated, washed twice with water, dried over anhydrous sodium sulfate, filtered and evaporated under reduced pressure to give N-(3-methoxy-4-nitro-phenyl)-acetamide.

reactant | N-(3-hydroxy-4-nitro-phenyl)-acetamide | 10.15 mmol, 2 g | OC=1C=C(C=CC1[N+](=O)[O-])NC(C)=O | C8H8N2O4
reactant | potassium carbonate | 18.88 mmol, 2.6 g | C([O-])([O-])=O.[K+].[K+]
reactant | methyl iodide | 11.16 mmol, 0.71 mL | CI | CH3I
reactant | methyl iodide | 0.15 mL | CI | CH3I
reactant | Ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
solvent | brine | 100 mL | [Cl-].[Na+].O
product | N-(3-methoxy-4-nitro-phenyl)-acetamide | COC=1C=C(C=CC1[N+](=O)[O-])NC(C)=O | C9H10N2O4
